US06797725B2
A reaction mixture of 3-[1-(3,5-dimethyl-1h-pyrrol-2-yl)-meth-(z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indole-2-one (166 mg, 0.5 mmol), glycolic acid (163 mg, 1.5 mmol, 70% w/w in water) and (68 mg, 0.6 mmol) of TFA in 3 mL of THF was stirred at room temperature for 4 h and diluted with ethyl acetate and water. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated. The precipitate was filtered, washed with small amount of ethyl acetate, and dried in a vacuum oven overnight to afford 42 mg (25%) of 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid carboxymethyl ester. 1H NMR (400 MHz, DMSO-d6 and CDCl3) δ 12.63 (s, 1H, NH-1′), 7.92-7.94 (m, 1H), 7.52-7.55 (m, 1H), 7.44 (s, 1H, H-vinyl), 7.20-7.22 (m, 2H), 6.06 (s, br, 1H, H-4′), 4.94 (s, 2H, CH2), 2.39 (s, 3H, CH3), and 2.36 (s, 3H, CH3).

reactant | 3-[1-(3,5-dimethyl-1h-pyrrol-2-yl)-meth-(z)-ylidene]-1-(imidazol-1-ylcarbonyl)-1,3-dihydro-indole-2-one | 0.5 mmol, 166 mg | CC1=C(NC(=C1)C)\C=C\1/C(N(C2=CC=CC=C12)C(=O)N1C=NC=C1)=O | C19H16N4O2
reactant | glycolic acid | 1.5 mmol, 163 mg | C(CO)(=O)O | C2H4O3
reactant | TFA | 0.6 mmol, 68 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-[1-(3,5-dimethyl-1H-pyrrol-2-yl)-meth-(Z)-ylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid carboxymethyl ester | 42 mg, 25% | C(=O)(O)COC(=O)N1C(\C(\C2=CC=CC=C12)=C/C=1NC(=CC1C)C)=O | C18H16N2O5
